US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (120 mg, 0.365 mmol), 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole (134 mg, 0.547 mmol), Pd2(dba)3 (21 mg, 0.037 mmol), X-phos (70 mg, 0.146 mmol) and Na2CO3 (117 mg, 1.1 mmol) in dioxane (5 mL) and water (0.5 mL) was heated to 100° C. with stirring for 16 h under N2. The solvent was removed in vacuo and the resulting mixture was first purified by chromatography (silica gel, 200-300 mesh, CH2Cl2:MeOH=20:1), and then again (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give 6-(1H-indazol-6-yl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (37 mg, 25%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 13.31 (s, 1H), 9.69 (s, 1H), 8.87 (s, 1H), 8.23 (s, 1H), 8.17 (s, 1H), 8.03 (s, 1H), 7.91 (d, 1H, J=8.4 Hz), 7.69-7.67 (m, 2H), 7.45 (t, 1H, J=7.8 Hz), 6.75 (d, 1H, J=7.8 Hz), 6.08 (d, 1H, J=8.1 Hz), 4.21 (brs, 1H), 3.58 (brs, 1H), 3.45-3.38 (m, 1H), 2.06-1.97 (m, 3H), 1.69 (brs, 1H), 1.11 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 411, tR=1.672 min, HPLC: 95.88% at 214 nm, 98.36% at 254 nm, tR=5.913 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.365 mmol, 120 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole | 0.547 mmol, 134 mg | CC1(OB(OC1(C)C)C1=CC=C2C=NNC2=C1)C | C13H17BN2O2
reactant | X-phos | 0.146 mmol, 70 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 1.1 mmol, 117 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.037 mmol, 21 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(1H-indazol-6-yl)-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 37 mg, 25% | N1N=CC2=CC=C(C=C12)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C23H22N8
